US09326987B2
6-(1H-Indol-4-yl)-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1H-indazole
6-Bromo-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole (70 mg, 0.162 mmol) was dissolved in 1,4-dioxane (1.2 ml) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (47.1 mg, 0.194 mmol, available from Frontier Scientific Europe), 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) (5.91 mg, 8.08 μmol), water (0.8 ml) and 2M aqueous sodium bicarbonate (0.242 ml, 0.485 mmol) were added. The reaction mixture was heated under microwave irradiation at 150° C. for 15 mins. The solution was loaded onto a silica cartridge (0.5 g) and eluted with methanol. The eluant was concentrated, the residue dissolved in methanol and absorbed onto Florisil. This was placed on top of a silica cartridge (10 g) and eluted with 25-50% ethyl acetate/cyclohexane. Appropriate fractions were evaporated to give the title compound as a yellow solid (27 mg).

reactant | 6-Bromo-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole | 0.162 mmol, 70 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)C | C17H13BrN4O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.194 mmol, 47.1 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | water | 0.8 ml | O | H2O
reactant | sodium bicarbonate | 0.485 mmol, 2M, 0.242 ml | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 8.08 μmol, 5.91 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(1H-Indol-4-yl)-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1H-indazole | 27 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)C | C18H13N5O
